US07645789B2
Ethyl 2-(1H-indol-2-yl)-2-methylpropanoate (1.0 g, 4.3 mmol) was dissolved in concentrated sulfuric acid (6 mL) and cooled to −10° C. (salt/ice-mixture). A solution of sodium nitrate (370 mg, 4.33 mmol) in concentrated sulfuric acid (3 mL) was added dropwise over 30 min. Stirring was continued for another 30 min at −10° C. The mixture was poured into ice and the product was extracted with dichloromethane. The combined organic phases were washed with a small amount of sat. aq. sodium bicarbonate. The product was purified by column chromatography on silica gel (5-30% EtOAc in hexane) to give ethyl 2-methyl-2-(5-nitro-1H-indol-2-yl)propanoate (0.68 g, 57%).

reactant | Ethyl 2-(1H-indol-2-yl)-2-methylpropanoate | 4.3 mmol, 1.0 g | N1C(=CC2=CC=CC=C12)C(C(=O)OCC)(C)C | C14H17NO2
reactant | sodium nitrate | 4.33 mmol, 370 mg | [N+](=O)([O-])[O-].[Na+]
solvent | sulfuric acid | 6 mL | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 3 mL | S(O)(O)(=O)=O | H2O4S
product | ethyl 2-methyl-2-(5-nitro-1H-indol-2-yl)propanoate | 0.68 g, 57% | CC(C(=O)OCC)(C)C=1NC2=CC=C(C=C2C1)[N+](=O)[O-] | C14H16N2O4
